Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet / Lipitor
 
Attending: ___
 
Chief Complaint:
Code Stroke - Visual Field Cut 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old left handed woman with past history
of hyperlipidemia off medications who presents to ___ ED as a
code stroke for transient visual loss as well as persistent
non-vertiginous lightheadedness.  Per the patient's report, she
was in her usual state of health today when meeting with the
president of her non-profit ___.  Around 1300hrs she 
was
working at a local ___ while balancing her checkbook 
when
suddenly her vision in the upper left field became grey and
blurry.  She did not close one eye to determine whether the
phenomenon was bilateral.  She tried to look in different 
fields,
however, the deficit persisted.  She stood up and noted that she
was lightheaded (non-vertiginous) and noted to the copy shop
staff who questioned whether she was alright that she just 
needed
to step out for some air.  She noted that she could see the 
faces
of the other people in the shop.  

She also noted that the field blurring which may have extended
past the superior left quadrant seemed to improve within 30
minutes.  After walking outside she determined that she should
leave and be evaluated.  She was able to ambulate to her car and
drive home, however, as her lightheadedness and left arm still
did not feel entirely right, she presented to ___ for further
evaluation.  The arm and hand when questioned further were noted
to be vaguely weak although this had also resolved.
 
On neuro ROS, the pt denies headache, diplopia, dysarthria,
dysphagia, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
- Hyperlipidemia
- Carpal Tunnel s/p surgery
- Hysteroscopy, dilatation and curettage, and polypectomy.
- Fibrocystic breast
- Diverticulosis

 
Social History:
___
Family History:
-  Mother died at the age of ___, had thyroid disease, COPD,
melanoma, and lymphoma.  
- Father died at the age of ___, had AAA, emphysema, CAD, and MI. 


- Brother with history of hemolytic anemia due to the viral
illness, skin cancer, and high cholesterol 
- Brother with history of benign kidney tumor at the younger
age.

 
Physical Exam:
ON ADMISSION:
Pain=0, T=98.3F, HR=86 BP=174/67, RR=18, SaO2=100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Normal prosody.  There were no paraphasic
errors.  Pt. was able to name both high and low frequency
objects.  Able to read without difficulty.  Speech was not
dysarthric.  Able to follow both midline and appendicular
commands.  Attentive, with good knowledge of current events. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation with wiggling fingers in
periphery, but could not count fingers in superior left quadrant
in either gaze. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch, pinprick in all
distributions, and ___ strength noted bilateral in masseter
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     4+  4+
R  ___   ___  ___   5   5    5     4+  4+
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     1     2    1
R   2    2     1     2    1
- Plantar response was flexor in right mute-flexor in left.
- Pectoralis Jerk was absent, and Crossed Adductors are absent. 
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Some limitation due to lightheadedness.
 
ON DISCHARGE: Exam, including visual fields, was normal.
 
Pertinent Results:
LABS:
___ 02:00PM BLOOD WBC-9.1 RBC-4.73 Hgb-14.2 Hct-40.5 MCV-86 
MCH-30.0 MCHC-35.1* RDW-13.7 Plt ___
___ 02:00PM BLOOD ___ PTT-34.0 ___
___ 02:00PM BLOOD Creat-0.8
___ 02:00PM BLOOD UreaN-19
___ 02:00PM BLOOD Cholest-221*
___ 02:00PM BLOOD %HbA1c-5.5 eAG-111
___ 02:00PM BLOOD Triglyc-222* HDL-55 CHOL/HD-4.0 
LDLcalc-122
___ 02:32PM BLOOD Glucose-106* Lactate-1.7 Na-146* K-4.4 
Cl-105 calHCO3-28

IMAGING:

CT/CTA head/neck ___:
1. No evidence of acute intracranial hemorrhage. 
2. Question approximately 1 mm right proximal M1 segment 
aneurysm versus 
infundibulum. 
3. No evidence of aneurysm greater than 3 mm, dissection or 
vascular 
malformation, or significant luminal narrowing. 
4. Please note MRI of the brain is more sensitive for the 
detection of acute 
infarct. 

MRI Head ___:
1. No acute hemorrhage, mass effect, or acute infarct. 
2. Mild presumed sequelae of chronic small vessel ischemic 
disease and chronic right cerebellar hemisphere lacunar infarct. 


ECG ___:
Sinus rhythm. Prominent voltage in leads I and aVL for left 
ventricular 
hypertrophy. Low precordial lead voltage. Compared to the 
previous tracing  of ___ the rate has increased. Otherwise, 
no diagnostic interim change.  
  

 
Brief Hospital Course:
Ms. ___ is a ___ year old left handed woman with a history of 
HLD who presented with transient LUQ visual field obscuration 
described as "broken glass appearing" that resolved after a few 
minutes. Her vision in that quadrant subsequently continued to 
be blurry for hours, including during neuro ED evaluation. The 
morning after presentation, her vision complaints had resolved 
and she had a normal exam. She also developed a mild headache 
that morning, which is unusual for her. 

# Visual Field Obscuration:
Given the description of the vision symptoms, this is most 
likely a migraine aura although her symptoms did not progress 
across her visual field and her headache was many hours later. 
TIA also remains on the DDx. Given this is a new migraine 
phenomenon in a ___ year old woman, MRI head was obtained, which 
ruled out stroke. Stroke risk factors were assessed and she was 
started on aspirin 81mg daily given the possiblity of TIA.  

TRANSITIONAL ISSUES:
- LDL was mildly elevated at 122 with an elevated total 
cholesterol of 221. We discussed with her to change her diet to 
reduce carbohydrates and saturated fatty acids. We recommend to 
recheck another lipid profile. If this still shows elevated LDL, 
then a statin therapy might be indicated; 
- HbA1c was pending at the time of discharge. She can follow up 
with her PCP.

==================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes  – () No  
2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented (required for all patients)? (x) Yes (LDL = 
122) - () No  
5. Intensive statin therapy administered? () Yes - (x) No [if 
LDL >= 100, reason not given: ____ ]  
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)  
6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) non-smoker - () unable to participate]  
7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No  
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: TIA is less likely diagnosis; she can follow up her 
LDL with her PCP]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (x) N/A  
====================================================  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACUTE ISSUES: 
1. Transient visual symptoms - complex migraine vs. TIA 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Neuro exam = non-focal
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the Stroke service at ___ after a 
transient episode of blurred vision on the left side, associated 
with lightheadedness and a feeling of weakness in your left arm. 
Your symptoms all resolved rapidly except for the 
lightheadedness. To rule out a stroke, we performed an MRI of 
your brain which showed no stroke. Your symptoms were most 
likely caused by a complex migraine - i.e. a migraine aura 
without any associated headache. It is also possible that you 
had a Transient Ischemic Attack (TIA), or mini-stroke, which did 
not leave you with any permanent deficits. To protect against 
stroke in the future, we started Aspirin 81mg daily. 

We also checked your stroke risk factors. Your LDL was mildly 
elevated at 122 and your A1C (blood sugar) was still pending at 
the time of discharge. 

We have scheduled an appointment for you to follow up with 
Neurology (Dr. ___ as an outpatient. See below 
for details. 

It was a pleasure taking care of you! 

 
Followup Instructions:
___